US06797831B2
A mixture of Lovastatin (50 g, 0.124 mol) and benzylamine (46.32 g, 0.432 mol) was mixed with toluene (25 ml) and heated to 80° C. under nitrogen atmosphere for 1 hour. Absence of Lovastatin was monitored by HPLC. Excess benzylamine and toluene were distilled off at 85-90° C. under reduced pressure (5-10 mm Hg). The residue was mixed with xylenes (50 ml) and distilled again at 85-90° C. under reduced pressure (5-10 mm Hg) to get product, lovastatin benzylamide, as light brown viscous liquid. Yield: 67.5 g.

reactant | Lovastatin | 0.124 mol, 50 g | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | benzylamine | 0.432 mol, 46.32 g | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | lovastatin benzylamide | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C.C(C1=CC=CC=C1)[NH-] | InChI=1S/C24H36O5.C7H8N/c1-5-15(3)24(27)29-21-11-14(2)10-17-7-6-16(4)20(23(17)21)9-8-19-12-18(25)13-22(26)28-19;8-6-7-4-2-1-3-5-7/h6-7,10,14-16,18-21,23,25H,5,8-9,11-13H2,1-4H3;1-5,8H,6H2/q;-1/t14-,15-,16-,18+,19+,20-,21-,23-;/m0./s1
